US08685988B2
Synthesis of N1-(1-(2-fluoroethyl)azetidin-3-yl)-3-methoxybenzene-1,4-diamine
A solution of 1-(2-fluoroethyl)-N-(3-methoxy-4-nitrophenyl)azetidin-3-amine (2.6 g) and Pd/C (1 g) in 1,4-dioxane (50 mL) was hydrogenated for 4 hours at room temperature. The reaction mixture was filtered through diatomaceous earth, washing with MeOH. The filtrate was concentrated and purified by column chromatography (DCM/MeOH=50/1 as elution) to provide the title compound (1.57 g, yield 68%, M+H+=240.2).

reactant | 1-(2-fluoroethyl)-N-(3-methoxy-4-nitrophenyl)azetidin-3-amine | 2.6 g | FCCN1CC(C1)NC1=CC(=C(C=C1)[N+](=O)[O-])OC | C12H16FN3O3
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
catalyst | Pd/C | 1 g | [Pd] | Pd
product | N1-(1-(2-fluoroethyl)azetidin-3-yl)-3-methoxybenzene-1,4-diamine | 1.57 g, yield 68% | FCCN1CC(C1)NC1=CC(=C(C=C1)N)OC | C12H18FN3O
